US08283353B2
2-[5-({4-[trans-4-(2-hydroxy-2-methylpropoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)thiophen-2-yl]benzonitrile
Ethyl ({trans-4-[6-{[5-(2-cyanophenyl)thiophen-2-yl]methyl}-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl]cyclohexyl}oxy)acetate (0.25 g) was dissolved in tetrahydrofuran (10 mL), and methylmagnesium bromide (1.0 M tetrahydrofuran solution, 0.44 mL) was added at room temperature. The reaction mixture was stirred at 70° C. for 6 hr, saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.12 g, 49%).

reactant | Ethyl ({trans-4-[6-{[5-(2-cyanophenyl)thiophen-2-yl]methyl}-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl]cyclohexyl}oxy)acetate | 0.25 g | C(#N)C1=C(C=CC=C1)C1=CC=C(S1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)OCC(=O)OCC)=O | C30H33N5O4S
reactant | methylmagnesium bromide | 1.0 M, 0.44 mL | C[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-[5-({4-[trans-4-(2-hydroxy-2-methylpropoxy)cyclohexyl]-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)thiophen-2-yl]benzonitrile | 0.12 g, 49% | OC(CO[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(S1)C1=C(C#N)C=CC=C1)CCC)N=CN2)(C)C | C30H35N5O3S
